US04128644
A. 2-Acetyl-6-methylpyrazolo[1,5-c]quinazolin-5(6H)-one
To a solution of 5.0 g (0.0288 mole) of 1-methyl-3-diazooxindole in 200 ml of benzene there is added 2.38 g (0.035 mole) of 3-butyn-2-one and the solution refluxed overnight.

reactant | 1-methyl-3-diazooxindole | 0.0288 mole, 5.0 g | CN1C(C(C2=CC=CC=C12)=[N+]=[N-])=O | C9H7N3O
reactant | 3-butyn-2-one | 0.035 mole, 2.38 g | CC(C#C)=O | C4H4O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-Acetyl-6-methylpyrazolo[1,5-c]quinazolin-5(6H)-one | C(C)(=O)C1=NN2C(N(C=3C=CC=CC3C2=C1)C)=O | C13H11N3O2
